US20010044939A1
Construction of Acetolactate Synthase Small Subunit Expression Vectors Construction of pTrx-Bst1107
The bacterial expression vector pTrxFUS (Invitrogen) was digested to completion with Kpn I and the resulting 3′ overhang was removed by incubation of the DNA with the Klenow fragment of DNA polymerase I for 1 h at 25° C. in a buffer consisting of 50 mM Tris-HCl, 10 mM MgCl2, 0.1 mM each of dATP, dCTP, dGTP, and dTTP, and 1 unit of Klenow/μg of DNA. The DNA was then extracted sequentially with equal volumes of phenol:CHCl3:isoamyl alcohol (25:24:1) and CHCl3 and precipitated on dry ice for 20 min after adding 0.1 volume of 3 M sodium acetate pH 6 and 2 volumes of ethanol. DNA was recovered by centrifugation at 14,000×g for 10 min. The DNA was digested to completion with Sal I and dephosphorylated with calf intestinal alkaline phosphatase. One μg of this DNA was then ligated with 1 uL of the dilute mixture of phosphorylated pTrx linker1 and pTrx linker2 prepared above at 16° C. for 3 h in 10 uL of 66 mM Tris-HCl, pH 7.6, 5 mM MgCl2, 1 mM dithioerythritol, and 5 units of T4 DNA ligase. The ligation reaction was diluted to 50 uL with H2O and 2 uL of this dilution was used to transform competent Max Efficiency E. coli HB101 (GibcoBRL, Gaithersburg, Md.) using the protocol supplied with the cells. Aliquots of the transformation mixture were spread on LB plates containing 100 μg/mL ampicillin and the-plates were incubated at 37° C. overnight. Plasmids from individual antibiotic resistant colonies were analyzed for incorporation of the desired double-stranded oligonucleotide by dideoxy sequence analysis using the commercially available forward and reverse sequencing primers (Invitrogen). One clone found to contain the correct insert is designated pTrx-Bst1107.

reactant | MgCl2 | 5 mM, pH 7.6 | [Mg+2].[Cl-].[Cl-]
reactant | dithioerythritol | 1 mM | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | H2O | O | H2O
product | Acetolactate | CC(C(=O)O)OC(=O)C | C5H8O4
